US09233098B2
4. Preparation of ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate
Ethyl 2-(1H-indazol-3-yl)acetate (408 mg, 2.0 mmol) was dissolved in N,N-dimethylformamide (20 mL), 60% sodium hydride (96 mg, 2.4 mmol) was added, and stirred at room temperature for half an hour. Then p-nitro benzyl bromide (475 mg, 2.2 mmol) was added, and reacted for 1 hour. Then, the reaction solution was poured into ice water and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, concentrated, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a yellow solid 354 mg, at a yield of 52.1%.

reactant | Ethyl 2-(1H-indazol-3-yl)acetate | 2.0 mmol, 408 mg | N1N=C(C2=CC=CC=C12)CC(=O)OCC | C11H12N2O2
reactant | sodium hydride | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | p-nitro benzyl bromide | 2.2 mmol, 475 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate | 354 mg, yield of 52.1% | [N+](=O)([O-])C1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H17N3O4
